US07589232B2
Step c) Formation of 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]benzoic acid
The titled compound was prepared following the procedure F using ethyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]benzoate and NaOH 5M as a yellow powder (75%). 1H NMR (CDCl3, 300 MHz) δ 8.06 (d, J=8.7 Hz, 2H). 7.42 (s, 2H), 7.40 (s, 2H), 7.16 (s, 2H), 7.13 (s, 21), 4.91 (s, 2H), 2.61 (t, J=7.7 Hz, 2H), 2.09 (t, J=7.5 Hz, 2H), 1.68-1.52 (m, 5H), 1.42-1.29 (m, 2H), 1.27-1.11 (m, 5H), 0.91 (t, J=7.3 Hz, 3H), 0.82 (t, J=7.1 Hz, 3H). M− (ESI): 480.5; M+ (ESI): 482.4. HPLC, Rt: 5.76 min (Purity: 99%).

reactant | ethyl 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]benzoate | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC=C(C(=O)OCC)C=C2)C(CCCCC)=O)C=C1 | C34H39NO3
reactant | NaOH | 5M | [OH-].[Na+]
product | 4-[{4-[(4-butylphenyl)ethynyl]benzyl}(hexanoyl)amino]benzoic acid | C(CCC)C1=CC=C(C=C1)C#CC1=CC=C(CN(C2=CC=C(C(=O)O)C=C2)C(CCCCC)=O)C=C1 | C32H35NO3
